US05053509
Working under the conditions of Example 20, but starting with 3-ethoxycarbonyl-7,8-difluoro-1-methyl-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine (51.6 g) and (R)-2-phenylpiperazine (31.7 g), (R)-3-ethoxycarbonyl-7-fluoro-1-methyl-4-oxo-8-(3-phenyl-1-piperazinyl)-1,4-dihydrobenzo[b][1,8]naphthyridine (66.86 g) is obtained in the form of a yellow solid, m.p. 221° C.

reactant | 3-ethoxycarbonyl-7,8-difluoro-1-methyl-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine | 51.6 g | C(C)OC(=O)C=1C(C=2C=C3C(=NC2N(C1)C)C=C(C(=C3)F)F)=O | C16H12F2N2O3
reactant | (R)-2-phenylpiperazine | 31.7 g | C1(=CC=CC=C1)[C@H]1NCCNC1 | C10H14N2
product | (R)-3-ethoxycarbonyl-7-fluoro-1-methyl-4-oxo-8-(3-phenyl-1-piperazinyl)-1,4-dihydrobenzo[b][1,8]naphthyridine | 66.86 g | C(C)OC(=O)C=1C(C=2C=C3C(=NC2N(C1)C)C=C(C(=C3)F)N3C[C@H](NCC3)C3=CC=CC=C3)=O | C26H25FN4O3
